US06133271
Following the procedure of Example 97, the reaction of pyrazole with 6-chloro-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(pyrazol-1-yl)-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 6-chloro-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC1=CC2=C(N=CN=C2NCC2=CC(=CC=C2)[N+](=O)[O-])S1 | C13H9ClN4O2S
product | 2-(pyrazol-1-yl)-4-(3-nitrobenzylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CC=C1)C=1N=C(C2=C(N1)SC=C2)NCC2=CC(=CC=C2)[N+](=O)[O-] | C16H12N6O2S
